US07585885B2
5-(Difluorophenyl-methyl)-N-methyl-N-propyl-isophthalamic acid methyl ester
Chill a solution of nitrosonium tetrafluoroborate (0.074 g, 0.63 mmol), hydrogen fluoride-pyridine (0.250 mL) in dichloromethane (2 mL) in aplastic bottle. Add a solution of N-methyl-5-(2-phenyl-[1,3]dithian-2-yl)-N-propyl-isophthalamic acid methyl ester (0.123 g, 0.286 mmol) in dichloromethane (1 mL) to the bottle and stir at room temperature for 2 h. Dilute the solution with dichloromethane (5 mL) and filter though a pad of magnesium sulfate and aluminum oxide. Wash solid with ethyl acetate (50 mL), concentrate and purify (silica gel chromatography, eluting with 20:80 to 30:70 ethyl acetate:hexanes) to give the title compound (42%).

reactant | nitrosonium tetrafluoroborate | 0.63 mmol, 0.074 g | F[B-](F)(F)F.N#[O+]
reactant | hydrogen fluoride-pyridine | 0.250 mL | N1=CC=CC=C1.F
reactant | N-methyl-5-(2-phenyl-[1,3]dithian-2-yl)-N-propyl-isophthalamic acid methyl ester | 0.286 mmol, 0.123 g | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C1(SCCCS1)C1=CC=CC=C1)=O | C23H27NO3S2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-(Difluorophenyl-methyl)-N-methyl-N-propyl-isophthalamic acid methyl ester | 42% | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C1=CC=CC=C1)(F)F)=O | C20H21F2NO3
